US06727264B1
N-(3-{1-[(3S)-3-(1,3-DIOXO-1,3-DIHYDRO-2H-ISOINDOL-2-YL)-3-PHENYLPROPYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
A mixture of 2-[(1S)-3-chloro-1-phenylpropyl]-1H-isoindole-1,3(2H)-dione (4.50 g, 15.0 mmol), 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide (4.26 g, 15.0 mmol), K2CO3 (4.16 g, 30.0 mmol), and NaI (3.40 g, 20.0 mmol) in DMF (40 mL) was stirred at 90° C. for 12 hrs. The reaction mixture was diluted with water (50 mL), extracted with CH2Cl2 (3×50 mL), and the combined organic extracts were washed with brine (50 mL), dried over MgSO4, and concentrated under reduced pressure. The residue was purified by chromatography on silica using 5% of NH3 (2.0 M in methanol) in CH2Cl2 to give the desired product (5.10 g, 74%). 1H NMR (400 MHz, CDCl3) δ 7.83 (d, 1H, J=5.5 Hz), 7.82 (d, 1H, J=5.5 Hz), 7.71 (d, 1H, J=5.5 Hz), 7.70 (d, 1H, J=5.4 Hz), 7.56 (d, 2H, J=7.1 Hz), 7.35-7.27 (m, 5H), 7.22 (t, 1H, J=7.5 Hz), 7.09 (s, 1H), 6.81 (d, 1H, J=7.8 Hz), 5.49 (dd, 1H, J=5.5, 9.6 Hz), 2.97 (d, 1H, J=10.1 Hz), 2.92-2.82 (m, 2H), 2.44 (sept, 1H, J=6.7 Hz), 2.40-2.29 (m, 3H), 2.00-1.83 (m, 2H), 1.79-1.39 (m, 5H), 1.26 (d, 6H, J=6.9 Hz); ESMS m/e: 510.4 (M+H)+.

reactant | 2-[(1S)-3-chloro-1-phenylpropyl]-1H-isoindole-1,3(2H)-dione | 15.0 mmol, 4.50 g | ClCC[C@@H](C1=CC=CC=C1)N1C(C2=CC=CC=C2C1=O)=O | C17H14ClNO2
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | 15.0 mmol, 4.26 g | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
reactant | K2CO3 | 30.0 mmol, 4.16 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | 20.0 mmol, 3.40 g | [Na+].[I-]
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | water | 50 mL | O | H2O
product | N-(3-{1-[(3S)-3-(1,3-DIOXO-1,3-DIHYDRO-2H-ISOINDOL-2-YL)-3-PHENYLPROPYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE | 5.10 g, 74% | O=C1N(C(C2=CC=CC=C12)=O)[C@@H](CCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)C1=CC=CC=C1 | C32H35N3O3
